US08975250B2
1.3: 4-Ethylamino-2-methylthio-5-pyrimidinecarboxylic acid fluoride
To a solution containing 3.0 g (14.0 mmol) of 4-ethylamino-2-methylthio-5-pyrimidinecarboxylic acid and 2.1 mL (15.0 mmol) of triethylamine in 50 mL of CH2Cl2 are added 2.3 mL (28.0 mmol) of cyanuric fluoride. The mixture is stirred for 3 hours and the solution is diluted with 250 mL of CH2Cl2 and 75 mL of ice-cold water. After separation of the phases by settling, the organic phase is washed with 75 mL of ice-cold water and dried over MgSO4. The solvent is then evaporated off under reduced pressure. 3.0 g of expected product are obtained in the form of a greenish gum. The yield is quantitative.

reactant | 4-ethylamino-2-methylthio-5-pyrimidinecarboxylic acid | 14.0 mmol, 3.0 g | C(C)NC1=NC(=NC=C1C(=O)O)SC | C8H11N3O2S
reactant | triethylamine | 15.0 mmol, 2.1 mL | C(C)N(CC)CC | C6H15N
reactant | cyanuric fluoride | 28.0 mmol, 2.3 mL | N1=C(F)N=C(F)N=C1F | C3F3N3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | 4-Ethylamino-2-methylthio-5-pyrimidinecarboxylic acid fluoride | 3.0 g | C(C)NC1=NC(=NC=C1C(=O)F)SC | C8H10FN3OS
